US03979381
2,3,3a,4,6,7-Hexahydro-2-propyl-3-[3-(trifluoromethyl)phenyl]-7-[[3-(trifluoromethyl)phenyl]methylene]thiopyrano[4,3-c]pyrazole-5,5-dioxide
A mixture of 2.5g of tetrahydro-3,5-bis[[3-(trifluoromethyl)phenyl]methylene]-4H-thiopyran-4-one-1,1-dioxide and n-propyl hydrazine in 100ml of methanol is heated at reflux temperature for 1 hour. The crystals obtained on cooling to 5°-10°C are collected and dried in vacuo over phorphorus pentoxide at 50°C to yield 1.7g of the title compound, melting point 190°-191°C. The filtrate is diluted with water giving additional crude material which is recrystallized from methanol to give 400mg of the title compound, melting point 191°-193.5°C.

reactant | tetrahydro-3,5-bis[[3-(trifluoromethyl)phenyl]methylene]-4H-thiopyran-4-one-1,1-dioxide | 2.5g | FC(C=1C=C(C=CC1)C=C1CS(CC(C1=O)=CC1=CC(=CC=C1)C(F)(F)F)(=O)=O)(F)F | C21H14F6O3S
reactant | n-propyl hydrazine | C(CC)NN | C3H10N2
solvent | methanol | 100ml | CO | CH4O
product | 2,3,3a,4,6,7-Hexahydro-2-propyl-3-[3-(trifluoromethyl)phenyl]-7-[[3-(trifluoromethyl)phenyl]methylene]thiopyrano[4,3-c]pyrazole-5,5-dioxide | 1.7g | C(CC)N1N=C2C(C1C1=CC(=CC=C1)C(F)(F)F)CS(CC2=CC2=CC(=CC=C2)C(F)(F)F)(=O)=O | C24H22F6N2O2S
